US05434184
(R)-4-[2-(2-Hydroxy-2-phenylethylamino)ethoxy]phenylacetamide hydrochloride (0.45 g) was heated under reflux in methanol (20 ml) containing concentrated sulphuric acid (0.5 ml) for 18 hours. The mixture was cooled and the solvent evaporated under reduced pressure. The residue was dissolved in dichloromethane (30 ml) and washed successively with water (20 ml), 5% NaHCO3 solution (50 ml) and water (20 ml), dried over MgSO4 and then the solvent was removed under reduced pressure. The residue was dissolved in methyl acetate (20 ml) and treated with a solution of ether saturated with hydrogen chloride. The precipitated solid was crystallised from a mixture of methanol and methyl acetate to give (R)-methyl 4-[2-(2-hydroxy-2-phenylethylamino)ethoxy]phenylacetate hydrochloride (0.25 g), m.p. 181°-183° C.; microanalysis: found, C, 62.6; H, 6.6; N, 3.8; Cl, 9.9%; required for C19H24ClNO4 : C, 62.4; H, 6.6; N, 3.8; Cl, 9.7%; [α]25D =-25.3° (c=0.99 in methanol).

reactant | (R)-4-[2-(2-Hydroxy-2-phenylethylamino)ethoxy]phenylacetamide hydrochloride | 0.45 g | Cl.O[C@@H](CNCCOC1=CC=C(C=C1)CC(=O)N)C1=CC=CC=C1
reactant | sulphuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 20 ml | CO | CH4O
product | (R)-methyl 4-[2-(2-hydroxy-2-phenylethylamino)ethoxy]phenylacetate hydrochloride | 0.25 g | Cl.O[C@@H](CNCCOC1=CC=C(C=C1)CC(=O)OC)C1=CC=CC=C1 | InChI=1S/C19H23NO4.ClH/c1-23-19(22)13-15-7-9-17(10-8-15)24-12-11-20-14-18(21)16-5-3-2-4-6-16;/h2-10,18,20-21H,11-14H2,1H3;1H/t18-;/m0./s1
